US05554620
A mixture of 1-isoquinolinecarboxaldehyde (7.2 g, 46 mmol), 5.7 g (92 mmol) of ethylene glycol, 200 ml of toluene and 2.3 g (12 mmol) of p-toluenesulfonic acid under argon in a 3 neck-flask equipped with a Dean-Stark Trap was refluxed for 6 h separating the water. The mixture was cooled to room temperature, and poured into an ice-cold 10% sodium carbonate solution. The aqueous layer was extracted with ether, the combined organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford 9.3 g of 1-(1,3-dioxolan-2-yl)isoquinoline.

reactant | 1-isoquinolinecarboxaldehyde | 46 mmol, 7.2 g | C1(=NC=CC2=CC=CC=C12)C=O | C10H7NO
reactant | ethylene glycol | 92 mmol, 5.7 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 12 mmol, 2.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(1,3-dioxolan-2-yl)isoquinoline | 9.3 g | O1C(OCC1)C1=NC=CC2=CC=CC=C12 | C12H11NO2
